US07132426B2
Preparation of Ethyl-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-(5′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylmethyl)amine (Compound A127)
A mixture of ethyl-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-piperidin-4-ylmethyl-amine hydrochloride salt (30 mg, 0.064 mmol), 2-bromo-5-trifluoromethylpyridine (188 mg, 0.83 mmol), and triethylamine (27 μL, 0.19 mmol) in DMF (1.0 mL) was heated under microwave irradiation for 20 minutes at 165° C. The crude mixture was purified by HPLC to provide compound A127 as a white solid (19 mg, 51%). Exact mass calculated for C26H27F4N7O2S 557.19, found 578.3 (MH+).

reactant | ethyl-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-piperidin-4-ylmethyl-amine hydrochloride salt | 0.064 mmol, 30 mg | Cl.C(C)N(CC1CCNCC1)C1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F
reactant | 2-bromo-5-trifluoromethylpyridine | 0.83 mmol, 188 mg | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | triethylamine | 0.19 mmol, 27 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | Ethyl-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-(5′-trifluoromethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylmethyl)amine | 19 mg, 51% | C(C)N(CC1CCN(CC1)C1=NC=C(C=C1)C(F)(F)F)C1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C26H27F4N7O2S
